US06797718B2
Under a nitrogen atmosphere, triethylamine (7.4 mL, 53 mmol) was added to a solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (9.78 g, 44.2 mmol) in anhydrous DMF (200 mL). 2-(Pyridin-4-ylmethoxy)ethylamine (6.8 g, 45 mmol) was added, and the reaction was stirred at room temperature for 17.5 hours. The reaction solution was slowly added to water (1.8 L) and stirred for two hours to form a precipitate, which was isolated by filtration and washed with cold hexane (200 mL). The solid was dried under reduced pressure for one hour to provide 10.15 g of (2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-[2-(pyridin-4-ylmethoxy)ethyl]amine as a yellow solid. An analysis by HPLC indicated that starting material and an isomer were present as impurities.

reactant | triethylamine | 53 mmol, 7.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 44.2 mmol, 9.78 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | 2-(Pyridin-4-ylmethoxy)ethylamine | 45 mmol, 6.8 g | N1=CC=C(C=C1)COCCN | C8H12N2O
reactant | water | 1.8 L | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | (2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-[2-(pyridin-4-ylmethoxy)ethyl]amine | 10.15 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCOCC1=CC=NC=C1)C)C | C15H17ClN4O3
